US08859534B2
N-(1-Acetylpiperidin-4-yl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (60 mg, 0.16 mmol) and 1-(4-amino-piperidin-1-yl)-ethanone (27 mg, 0.19 mmol). Yield: 39 mg (47%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.16 mmol, 60 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | 1-(4-amino-piperidin-1-yl)-ethanone | 0.19 mmol, 27 mg | NC1CCN(CC1)C(C)=O | C7H14N2O
product | N-(1-Acetylpiperidin-4-yl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | C(C)(=O)N1CCC(CC1)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2 | C27H33N5O3
